US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(2,3-dichlorophenyl)-1-hexanone are reacted and treated in the same manner as in Example 199 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(2,3-dichlorophenyl)-6-oxohexyl)piperidine-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(2,3-dichlorophenyl)-1-hexanone | BrCCCCCC(=O)C1=C(C(=CC=C1)Cl)Cl | C12H13BrCl2O
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(2,3-dichlorophenyl)-6-oxohexyl)piperidine-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=C(C(=CC=C2)Cl)Cl)C=C1Cl)OC | C26H32Cl3N3O3
